US09102654B2
Alternate Synthetic Route to: Methyl 3-chloro-1-(pyridin-3-yl)-1H-pyrazole-5-carboxylate
Methyl 3-chloro-1-(pyridine-3-yl)-4,5-dihydro-1H-pyrazole-5-carboxylate (0.500 g, 2.09 mmol) was stirred in acetone (10 mL). potassium permanganate (0.330 g, 2.09 mmol) was added in one portion and the reaction was stirred at room temperature overnight, at which point thin layer chromatography analysis (70% ethyl acetate/hexanes) indicated that the reaction was <50% complete. Additional potassium permanganate (520 mg, 3.29 mmol) was added and the reaction was stirred for an additional 4 hours. The mixture was filtered and concentrated and the residue was partitioned between ethyl acetate and water. The organic portion was dried over sodium sulfate, filtered, and concentrated. The residue was purified flash column chromatography using 80-100% ethyl acetate/hexanes as eluent to provide the desired product as a white solid (180 mg 36%).

reactant | Methyl 3-chloro-1-(pyridine-3-yl)-4,5-dihydro-1H-pyrazole-5-carboxylate | 2.09 mmol, 0.500 g | ClC1=NN(C(C1)C(=O)OC)C=1C=NC=CC1 | C10H10ClN3O2
reactant | potassium permanganate | 2.09 mmol, 0.330 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | potassium permanganate | 3.29 mmol, 520 mg | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | Methyl 3-chloro-1-(pyridin-3-yl)-1H-pyrazole-5-carboxylate | 180 mg, 36% | ClC1=NN(C(=C1)C(=O)OC)C=1C=NC=CC1 | C10H8ClN3O2
